US04255575
Following essentially the same procedure but substituting methyl 5-[1-hydroxy-2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-2-methoxybenzoate hydrochloride and methyl 5-[1-hydroxy-2-[4-(2-methylphenyl)-1-piperazinyl]ethyl]-2-methoxybenzoate hydrochloride for the methyl-5-[1-hydroxy-2-(4-phenyl-1-piperazinyl)ethyl]-2-methoxybenzoate above results in the preparation of 5-[1-hydroxy-2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-2-methoxybenzamide hydrochloride, having a m.pt. of 247°-8° C. (dec.) and 5-[1-hydroxy-2-[4-(2-methylphenyl)-1-piperazinyl]ethyl]-2-methoxybenzamide hydrochloride, having a m.pt. of 214°-6° C. (dec.), respectively.

reactant | methyl 5-[1-hydroxy-2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-2-methoxybenzoate hydrochloride | Cl.OC(CN1CCN(CC1)C1=C(C=CC=C1)OC)C=1C=CC(=C(C(=O)OC)C1)OC
reactant | methyl 5-[1-hydroxy-2-[4-(2-methylphenyl)-1-piperazinyl]ethyl]-2-methoxybenzoate hydrochloride | Cl.OC(CN1CCN(CC1)C1=C(C=CC=C1)C)C=1C=CC(=C(C(=O)OC)C1)OC
reactant | methyl-5-[1-hydroxy-2-(4-phenyl-1-piperazinyl)ethyl]-2-methoxybenzoate | COC(C1=C(C=CC(=C1)C(CN1CCN(CC1)C1=CC=CC=C1)O)OC)=O | C21H26N2O4
product | 5-[1-hydroxy-2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-2-methoxybenzamide hydrochloride | Cl.OC(CN1CCN(CC1)C1=C(C=CC=C1)OC)C=1C=CC(=C(C(=O)N)C1)OC | InChI=1S/C21H27N3O4.ClH/c1-27-19-8-7-15(13-16(19)21(22)26)18(25)14-23-9-11-24(12-10-23)17-5-3-4-6-20(17)28-2;/h3-8,13,18,25H,9-12,14H2,1-2H3,(H2,22,26);1H
